US06797823B1
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2,4 difluorophenyl)urea
4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylaniline (300 mg) was dissolved in chloroform (5 ml). 2,4-Difluorophenyl isocyanate (200 μl) was then added to the solution, and the mixture was stirred at 70° C. overnight. The reaction solution was purified by chromatography on silica gel by development with chloroform/acetone (75/25) to give 368 mg (yield 88%) of the title compound.

reactant | 4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylaniline | 300 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(N)C=C1C)C)OC | C25H24N2O3
reactant | 2,4-Difluorophenyl isocyanate | 200 μl | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2,4 difluorophenyl)urea | 368 mg, yield 88% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1C)NC(=O)NC1=C(C=C(C=C1)F)F)C)OC | C32H27F2N3O4
